US07585886B2
A 16.28 g portion of (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine and 18 ml of pyridine were dissolved in 100 ml of THF, and 14.6 g of methyl 4-[(chlorocarbonyl)oxy]benzoate (mfd. by Fluka) was added under ice cooling in one portion thereto in an atmosphere of argon. After 1Hour of stirring at room temperature, 2.5 g of methyl 4-[(chlorocarbonyl)oxy]benzoate was further added at room temperature. After 2Hours of further stirring, the reaction solution was concentrated under a reduced pressure. The residue was diluted with water and diisopropyl ether, the thus precipitated insoluble matter was removed by filtration, and then the filtrated was concentrated under a reduced pressure and the resulting residue was extracted with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried with anhydrous sodium sulfate. This was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-ethyl acetate) to obtain 23.80 g of 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine-1-carboxylate as a colorless oily substance.

reactant | (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine | [Si](C)(C)(C(C)(C)C)OC[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C17H29NOSi
reactant | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl 4-[(chlorocarbonyl)oxy]benzoate | 14.6 g | ClC(=O)OC1=CC=C(C(=O)OC)C=C1 | C9H7ClO4
reactant | methyl 4-[(chlorocarbonyl)oxy]benzoate | 2.5 g | ClC(=O)OC1=CC=C(C(=O)OC)C=C1 | C9H7ClO4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine-1-carboxylate | 23.80 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C26H35NO5Si
